US08076332B2
4-Methanesulfonyloxymethylbenzoic acid benzyl ester (Reference Compound No. 7-1)
Under ice cooling, after methanesulfonyl chloride (2.1 mL, 27 mmol) was added to a solution of 4-hydroxymethylbenzoic acid benzyl ester (Reference Compound No. 6-1, 6.0 g, 25 mmol) and triethylamine (7.6 mL, 54 mmol) in dichloromethane (60 mL), the reaction mixture was stirred at room temperature for 50 minutes. Brine (300 mL) was added thereto, and then the whole was extracted with chloroform (150 mL) four times. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to give 1.8 g of the title reference compound as yellow oil. (Yield 73%)

reactant | methanesulfonyl chloride | 27 mmol, 2.1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-hydroxymethylbenzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)CO)=O | C15H14O3
reactant | triethylamine | 54 mmol, 7.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | Brine | 300 mL | [Cl-].[Na+].O
product | 4-Methanesulfonyloxymethylbenzoic acid benzyl ester | Yield 73% | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)COS(=O)(=O)C)=O | C16H16O5S
